US08222262B2
Cyclohexyl-(2-indazol-1-yl-quinazolin-4-yl)-amine (Compound A3)
Was prepared according to Method A from 2,4-dichloroquinazoline, cyclohexylamine and indazole. Mp=278.1-281.4° C. LC-ESI-HRMS of [M+H]+ shows 344.1879 Da. Calc. 344.18752 Da, dev. 1.1 ppm.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | indazole | N1N=CC2=CC=CC=C12 | C7H6N2
product | Cyclohexyl-(2-indazol-1-yl-quinazolin-4-yl)-amine | C1(CCCCC1)NC1=NC(=NC2=CC=CC=C12)N1N=CC2=CC=CC=C12 | C21H21N5
